* C:\EIT GIT\P7---Bsc\PCB\ImpedanceAnalyzer\ADC Stuff\FilterSomAndenOrdensSystem.asc
V1 N001 0 AC 1
R1 P001 N001 0.7
L1 P001 N002 1m
C1 N002 N003 2m489
R2 N003 0 1.0795
R3 N002 0 60
.ac dec 1000 0.1 1000
.backanno
.end
